US06384080B1
A mixture of 2-[1-(tert-butoxycarbonyl)piperidin-3-ylamino]-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide (190 mg) and 4 N hydrogenchloride solution in ethyl acetate (5 mL) was stirred for 2 hours at ambient temperature. The reaction mixture was concentrated in vacuo. The residual crystals were collected by filtration and washed with ethyl acetate to give N-(3,4-dimethoxybenzyl)-5-nitro-2-(piperidin-3-ylamino)benzamide hydrochloride (138 mg) as yellow crystals.

reactant | 2-[1-(tert-butoxycarbonyl)piperidin-3-ylamino]-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide | 190 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C26H34N4O7
reactant | hydrogenchloride | 4 N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,4-dimethoxybenzyl)-5-nitro-2-(piperidin-3-ylamino)benzamide hydrochloride | 138 mg | Cl.COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC2CNCCC2)=O)C=CC1OC | InChI=1S/C21H26N4O5.ClH/c1-29-19-8-5-14(10-20(19)30-2)12-23-21(26)17-11-16(25(27)28)6-7-18(17)24-15-4-3-9-22-13-15;/h5-8,10-11,15,22,24H,3-4,9,12-13H2,1-2H3,(H,23,26);1H
